US04945092
95.6 g (340 mmol) of 2-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-yl]-acetic acid ethyl ester are dissolved in 440 ml of methanol; 22.5 g (40 mmol) of potassium hydroxide (80% strength) are added and the whole is heated under reflux for 16 hours. Concentration by evaporation is carried out under reduced pressure at 70°, 200 ml of hydrochloric acid are added and the whole is extracted by shaking with 800 ml of ethyl acetate. The organic phase is washed with saturated sodium chloride solution, concentrated to 500 ml, and 200 ml of hexane are added. The crystalline precipitate is filtered off with suction and dried. 2-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-yl]-acetic acid having a melting point of 142°-43° is obtained. Additional product can be obtained by concentrating the mother liquor by evaporation, taking up the residue in 200 ml of ethyl acetate and crystallising it by the addition of 100 ml of hexane.

reactant | 2-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-yl]-acetic acid ethyl ester | 340 mmol, 95.6 g | C(C)OC(CN1C(CC(C1)C1=CC=C(C=C1)Cl)=O)=O | C14H16ClNO3
reactant | potassium hydroxide | 40 mmol, 22.5 g | [OH-].[K+]
solvent | methanol | 440 ml | CO | CH4O
product | 2-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-yl]-acetic acid | ClC1=CC=C(C=C1)C1CC(N(C1)CC(=O)O)=O | C12H12ClNO3
